US09034866B2
Synthesis of 3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-10-((1-hydroxycyclopentyl)ethynyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
10-bromo-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7 methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide was reacted with 1-ethynylcyclopentanol via General Procedure E to afford 20 mg (14.5%) of 3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-10-((1-hydroxycyclopentyl)ethynyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide following reverse phase purification. M+1=486.

reactant | 10-bromo-3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-6,7-dihydro-5H-5,7 methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C=3C=NN(C3)CC(C)(C)O)C1 | C21H22BrN5O2
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 3-(1-(2-hydroxy-2-methylpropyl)-1H-pyrazol-4-yl)-10-((1-hydroxycyclopentyl)ethynyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | OC(CN1N=CC(=C1)C1=C(N=C2N1C1CC(C3=C2C=C(C=C3)C#CC3(CCCC3)O)C1)C(=O)N)(C)C | C28H31N5O3
